US04859761
N,N'-bis(allyl)-N"-cyanoguanidine
A solution of 0.7 g N,N'-bis(allyl)carbodiimide in 10 ml of 1,2-dichloroethane is reacted with 0.27 g of cyanamide and the reaction mixture is worked up as described in Example 4. Recrystallisation from diethyl ether yields a crystalline product which melts at 66.5°-67.0° C.

reactant | N,N'-bis(allyl)carbodiimide | 0.7 g | C(C=C)N=C=NCC=C | C7H10N2
reactant | cyanamide | 0.27 g | N#CN | CH2N2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | N,N'-bis(allyl)-N"-cyanoguanidine | C(C=C)NC(=NC#N)NCC=C | C8H12N4
